US09079889B2
In a 3-neck round-bottom flask, 5,5-dimethylcyclohexane-1,3-dione (1.0 eq) was dissolved in DCM (0.2 M). Sodium carbonate (1.1 eq) was added and the mixture was cooled with magnetic stirring on an ice/salt water bath to ˜−5° C. under N2. Triflic anhydride (1.05 equiv.) diluted in DCM was added dropwise via addition funnel over 90 minutes. Upon completion of addition, the reaction was stirred at ˜0° C. for 1 h. From LCMS and 1H NMR, there was still starting material left. Additional sodium carbonate (0.51 eq) and triflic anhydride (0.50 eq) were added. After 2 hours, the mixture was filtered through a coarse frit glass funnel (the cake was washed with DCM), transferred to an Erlenmeyer flask, quenched by careful addition of saturated aqueous sodium bicarbonate with vigorous stirring until pH=7, transferred to a separatory funnel and the layers separated. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated to give 5,5-dimethyl-3-oxocyclohex-1-enyl trifluoromethanesulfonate, which was used to the next step without further purification. LC/MS (m/z): MH+=273.1, Rt=1.03.

reactant | 5,5-dimethylcyclohexane-1,3-dione | 1.0 eq | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | Sodium carbonate | 1.1 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | Triflic anhydride | 1.05 equiv. | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | sodium carbonate | 0.51 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | triflic anhydride | 0.50 eq | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 0.2 M | C(Cl)Cl | CH2Cl2
product | 5,5-dimethyl-3-oxocyclohex-1-enyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC(CC(C1)(C)C)=O)(F)F | C9H11F3O4S
